US06747048B2
3,5-Dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethoxypyridine
To a solution of 3,5-dichloro-2,6-difluoro-4-(3-isopropyl-4-methoxyphenoxy)pyridine (100 mg) and methyl glycolate (neat, 25 μl) in THF (2.0 mL) was added a 60% oil dispersion of sodium hydride (10 mg) in one portion. The resulting mixture was stirred at ambient temperature for 30 min. The reaction mixture was diluted with brine, neutralized with 1 N HCl, extracted with CH2Cl2 (50 mL×2), dried (Na2SO4) and concentrated in vacuo to afford the title compound as a colorless oil (120 mg).

reactant | 3,5-dichloro-2,6-difluoro-4-(3-isopropyl-4-methoxyphenoxy)pyridine | 100 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)F)F | C15H13Cl2F2NO2
reactant | methyl glycolate | 25 μl | C(CO)(=O)OC | C3H6O3
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 3,5-Dichloro-2-fluoro-4-(3-isopropyl-4-methoxyphenoxy)-6-methoxycarbonylmethoxypyridine | 120 mg | ClC=1C(=NC(=C(C1OC1=CC(=C(C=C1)OC)C(C)C)Cl)OCC(=O)OC)F | C18H18Cl2FNO5
